US08071650B2
To an ice-cold solution of 2-aminophenylacetonitrile (500 mg) in dichloromethane (20 ml) were added triethylamine (330 μl) and methanesulfonyl chloride (530 μl) and the mixture was stirred for 16 hours, under argon gas atmosphere. After confirming the completion of the reaction using TLC, the resulting mixture was diluted with 1 N aqueous hydrochloric acid solution (30 ml), and extracted with dichloromethane (50 ml×3). The organic layer was washed with brine, dried over magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure and the obtained residue was purified by column-chromatography (ethyl acetate/hexane=1/2) to yield (2-methanesulfonylaminophenyl)acetonitrile (573 mg, 72%).

reactant | 2-aminophenylacetonitrile | 500 mg | NC1=C(C=CC=C1)CC#N | C8H8N2
reactant | triethylamine | 330 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 530 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | hydrochloric acid | 1 N, 30 ml | Cl | ClH
product | (2-methanesulfonylaminophenyl)acetonitrile | 573 mg, 72% | CS(=O)(=O)NC1=C(C=CC=C1)CC#N | C9H10N2O2S
